US07745495B2
A solution of 181 g of 6-Difluoromethyl-2-(3-methoxy-propyl)-nicotinic acid methyl ester in 750 ml of a 2:1 methanol/water mixture is treated with 43.9 g of lithium-hydroxide monohydrate, and the mixture stirred at ambient temperature for 1 hour. Then the methanol is removed by distillation in vacuo, and the reaction mixture then diluted with crushed ice and acidified with aqueous 6N hydrochloric acid. The product is filtered and washed thoroughly with water. Crystallisation from n-hexane:methylene chloride gives 138.3 g of 6-Difluoromethyl-2-(3-methoxy-propyl)-nicotinic acid as white crystals (melting point 86-87° C.). A solution of 101.2 g of 6-Difluoromethyl-2-(3-methoxy-propyl)-nicotinic acid in 1250 ml of dichloromethane is charged initially, 1 ml of dimethylformamide are added and the mixture is subsequently treated with 38.4 ml of oxalyl chloride. After the intensive evolution of gas has ceased, the mixture is stirred at room temperature for 1 hour and then cooled to 0° C. and treated with 57 g of bicyclo[3.2.1]octane-2,4-dione and 87 ml of triethylamine and the mixture then stirred for 2 hours at ambient temperature. The mixture is then diluted with methylene chloride, and washed with cold 1N hydrochloric acid, dried over magnesium sulphate and concentrated in vacuo to give 150.9 g of 6-Difluoromethyl-2-(3-methoxy-propyl)-nicotinic acid 4-oxo-bicyclo[3.2.1]oct-2-en-2-yl ester as an oil which is used in the next step without further purification.

reactant | 6-Difluoromethyl-2-(3-methoxy-propyl)-nicotinic acid | 101.2 g | FC(C1=NC(=C(C(=O)O)C=C1)CCCOC)F | C11H13F2NO3
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 38.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | bicyclo[3.2.1]octane-2,4-dione | 57 g | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
solvent | dichloromethane | 1250 ml | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 87 ml | C(C)N(CC)CC | C6H15N
product | 6-Difluoromethyl-2-(3-methoxy-propyl)-nicotinic acid 4-oxo-bicyclo[3.2.1]oct-2-en-2-yl ester | 150.9 g | O=C1C=C(C2CCC1C2)OC(C2=C(N=C(C=C2)C(F)F)CCCOC)=O | C19H21F2NO4
